US06010981
3. Preparation of 1-Ethyl-5-hydroxy-4-(3-iodo-2-methyl-4-methylsulfonylbenzoyl)pyrazole
Thionyl chloride (20 mL) was added to a mixture of 62.1 g (182 mmol) of 3-iodo-2-methyl-4-methylsulfonylbenzoic acid and 300 mL of 1,2-dichloroethane and the mixture was heated to reflux with stirring for 3 hours, absorbing the hydrogen chloride gas that evolved in an aqueous sodium hydroxide trap. The resulting solution was concentrated by evaporation under reduced pressure, diluted with 200 mL of toluene and reconcentrated by evaporation under reduced pressure. The resulting residue was dissolved in 100 mL of dichloromethane to obtain a first solution. A second solution was prepared by dissolving 22.3 g (270 mmol) of triethylamine and 24.7 g (270 mmol) of 1-ethyl-5-hydroxypyrazole in 200 mL of dichloromethane. This solution was cooled in an ice bath and the first solution was added to it dropwise with stirring and cooling. The resulting mixture was allowed to warm to ambient temperature and was then washed with cold 0.5N aqueous hydrochloric acid and then cold 5 percent aqueous potassium carbonate. It was then dried over magnesium sulfate and concentrated by evaporation under reduced pressure to obtain 84.2 g of a nearly colorless solid. This solid was slurried in 400 mL of dry acetonitrile and 1 mL (11 mmol) of acetone cyanohydrin and 37.7 g (270 mmol) of solid potassium carbonate were added. The mixture was allowed to stir overnight and was then concentrated by evaporation under reduced pressure. The residue was dissolved in water and the solution was extracted with ether and then acidified with 3N aqueous hydrochloric acid. The resulting mixture was extracted three times with dichloromethane and the combined extracts were dried over magnesium sulfate and concentrated by evaporation under reduced pressure. The gummy residue was crystallized by adding ethanol, heating to reflux, and allowing the solution to cool to obtain 63.3 9 (68 percent of theory) of the title compound as yellow crystals. The compound melts at 149-150° C.

reactant | Thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-iodo-2-methyl-4-methylsulfonylbenzoic acid | 182 mmol, 62.1 g | IC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C9H9IO4S
reactant | triethylamine | 270 mmol, 22.3 g | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-5-hydroxypyrazole | 270 mmol, 24.7 g | C(C)N1N=CC=C1O | C5H8N2O
reactant | acetone cyanohydrin | 11 mmol, 1 mL | CC(C#N)(O)C | C4H7NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
solvent | 1,2-dichloroethane | 300 mL | ClCCCl | C2H4Cl2
product | 1-Ethyl-5-hydroxy-4-(3-iodo-2-methyl-4-methylsulfonylbenzoyl)pyrazole | C(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)I)C)=O | C14H15IN2O4S
